US07902400B2
To a mixture of 10 ml of THF and 0.30 g of 3-methoxy-4-(2-propynyloxy)benzoyl chloride were added 0.21 g of (1S)-1-(cyclohexyl)ethylamine and 0.20 g of triethylamine in order at room temperature. The mixture obtained was stirred at room temperature for 4 hours. Then, ethyl acetate was added to the reaction mixture and the mixture was filtered through Celite. The filtrate was concentrated under reduced pressure. The residue was washed with methyl tert-butyl ether and hexane to obtain 0.33 g of N-((1S)-1-cyclohexylethyl)-4-(2-propynyloxy)-3-methoxybenzamide (hereinafter, described as the compound 21 of the present invention) represented by the formula:

reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | 3-methoxy-4-(2-propynyloxy)benzoyl chloride | 0.30 g | COC=1C=C(C(=O)Cl)C=CC1OCC#C | C11H9ClO3
reactant | (1S)-1-(cyclohexyl)ethylamine | 0.21 g | C1(CCCCC1)[C@H](C)N | C8H17N
reactant | triethylamine | 0.20 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-((1S)-1-cyclohexylethyl)-4-(2-propynyloxy)-3-methoxybenzamide | 0.33 g | C1(CCCCC1)[C@H](C)NC(C1=CC(=C(C=C1)OCC#C)OC)=O | C19H25NO3
